US08937091B2
2-acryloylanthracene 8189
Anthracene (0.156 g), acryloyl chloride (0.11 g), and aluminium chloride (0.15 g) were treated in the same manner as described in Example 1 to obtain the title compound (56 mg).

reactant | Anthracene | 0.156 g | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | acryloyl chloride | 0.11 g | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 0.15 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-acryloylanthracene | 56 mg | C(C=C)(=O)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C17H12O
